US04115455
Preparation of 3,5,5-Trimethyl-3-(t-butylperoxy) cyclohexanol by Catalytic and Chemical Hydrogenations
The catalytic hydrogenation of 3,5,5-trimethyl-3-(t-butylperoxy)-cyclohexanone, 10.0 g. (0.045 mole), was carried out in a Parr Hydrogenation Apparatus using 1.0 g. 5% Platinum on carbon catalyst and in the presence of 50 ml. of 10% methanesulfonic acid solution. The hydrogenation at 60 p.s.i.g. hydrogen pressure was started at 0° C. and the temperature allowed to rise to 21° C. After 2 1/2 hours, the reaction was stopped, the product taken up in ether, the etheral solution washed to neutrality with water, dried over anhydrous magnesium sulfate and the ether removed under reduced pressure. Examination of the IR spectrum of the product showed that some of the desired product had been obtained as evidenced by the hydroxyl absorption band while some unreduced carbonyl was still present. Further catalytic hydrogenation at 35° C. for 18 hours caused a further increase in hydroxyl absorption band and reduction of the carbonyl absorption band.

reactant | 3,5,5-trimethyl-3-(t-butylperoxy)-cyclohexanone | CC1(CC(CC(C1)(C)C)=O)OOC(C)(C)C | C13H24O3
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | hydrogen | [H][H] | H2
catalyst | Platinum on carbon | [Pt] | Pt
solvent | ether | CCOCC | C4H10O
product | 3,5,5-Trimethyl-3-(t-butylperoxy) cyclohexanol | CC1(CC(CC(C1)(C)C)O)OOC(C)(C)C | C13H26O3
